US07700655B2
(1) {2-[(5-Bromo-2-hydroxybenzoyl)amino]-4-phenylthiazol-5-yl}acetic acid methyl ester
Using 5-bromosalicylic acid and 2-amino-4-phenylthiazole-5-acetic acid methyl ester as the raw materials, the same operation as the Example 195(3) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-4-phenylthiazole-5-acetic acid methyl ester | COC(CC1=C(N=C(S1)N)C1=CC=CC=C1)=O | C12H12N2O2S
product | {2-[(5-Bromo-2-hydroxybenzoyl)amino]-4-phenylthiazol-5-yl}acetic acid methyl ester | Yield: 32.1% | COC(CC1=C(N=C(S1)NC(C1=C(C=CC(=C1)Br)O)=O)C1=CC=CC=C1)=O | C19H15BrN2O4S
